US06645990B2
To a stirred solution of 6-bromo-2-pyridine-carboxaldehyde (200 mg, 1.08 mmol) in dichloroethane (10 mL) was added morpholine (0.14 mL, 1.62 mmol) followed by NaBH(OAc)3 (458 mg, 2.16 mmol) and AcOH (0.25 mL, 4.32 mmol). The resulting mixture was stirred at RT for 12 h. The reaction was quenched with 2M Na2CO3 solution and stirred 1 h. The mixture was poured into Et2O and washed with 2 M Na2CO3 solution. The organic layer was collected, dried over Na2SO4 and concentrated in vacuo to give 2-bromo-6-morpholinyl-methylpyridine as a white solid. MS m/z: 256.9 (M+H).

reactant | 6-bromo-2-pyridine-carboxaldehyde | 1.08 mmol, 200 mg | BrC1=CC=CC(=N1)C=O | C6H4BrNO
reactant | morpholine | 1.62 mmol, 0.14 mL | N1CCOCC1 | C4H9NO
reactant | NaBH(OAc)3 | 2.16 mmol, 458 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | AcOH | 4.32 mmol, 0.25 mL | CC(=O)O | C2H4O2
solvent | dichloroethane | 10 mL | ClC(C)Cl | C2H4Cl2
product | 2-bromo-6-morpholinyl-methylpyridine | BrC1=NC(=CC=C1C)N1CCOCC1 | C10H13BrN2O
